US06124479
10% Palladium-carbon (1.68 g) was added to 4-benzyloxymethyl-2,2-dimethyl-1,3-dioxolane (5.949 g, 26.76 mmol) in ethanol (150 ml) and the mixture was stirred for 3 hours at 25° C. under an atmosphere of hydrogen. After the reaction was over, palladium-carbon was filtered off and the solution was condensed in vacuo. The crude product was distilled to give 3.07 g of 2,2-dimethyl-1,3-dioxolane-4-methanol (yield 87%, b.p. 72° C. at 8 mmHg).

reactant | 4-benzyloxymethyl-2,2-dimethyl-1,3-dioxolane | 26.76 mmol, 5.949 g | C(C1=CC=CC=C1)OCC1OC(OC1)(C)C | C13H18O3
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | Palladium-carbon | 1.68 g | [C].[Pd]
product | 2,2-dimethyl-1,3-dioxolane-4-methanol | 3.07 g, yield 87% | CC1(OCC(O1)CO)C | C6H12O3
